US05208228
A solution of 17-allyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (800 mg) and a catalytic amount of p-toluenesulfonic acid in 40 ml of dry benzene was refluxed for 1.5 h under nitrogen atmosphere. The solvent was removed under reduced pressure and the dark brown residue was purified by column chromatography on silica gel (eluted with ether) to give 720 mg of 17-allyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-14,18-diene-2,3,10,16-tetraone as a white solid. This material (500 mg) was dissolved in dry toluene (30 ml) and to this solution was added tetrakistriphenylphosphine palladium° (50 mg) and acetic acid (50 μl) at room temperature. To this yellow solution was added tri-n-butyltin hydride (200 mg) and the mixture was stirred for 1 h. The Brown colored solution was directly applied to column chromatography on silica gel (first eluted with hexane, then with ether) to give 380 mg of the title compound.

reactant | 17-allyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 800 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C44H69NO12
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 17-allyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-14,18-diene-2,3,10,16-tetraone | 720 mg | C(C=C)C1C(C=CC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C44H67NO11
